US07094781B2
4-[4,6-Dichloro-5-(2-methoxy-phenoxy)-pyrimidin-2-yl]-pyridine-2-carbonitrile (3.2 g) was dissolved in DMSO (20 ml), N-ethyidiisopropylamine (1.7 ml) and benzylsulfamic acid amide potassium salt (3.52 g) was added. The mixture was stirred for 18 h at rt, poured onto ice/water, acidified with solid citric acid and the precipitate was filtered off and recrystallized form EtOAc to give benzylsulfamic acid [6-chloro-2-(2-cyano-pyridin-4-yl)-5-(2-methoxy-phenoxy)-pyrimidin-4-yl]-amide (4.17 g). LC-MS: tR=5.55; [M+H]+=523.29.

reactant | 4-[4,6-Dichloro-5-(2-methoxy-phenoxy)-pyrimidin-2-yl]-pyridine-2-carbonitrile | 3.2 g | ClC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)Cl)C1=CC(=NC=C1)C#N | C17H10Cl2N4O2
reactant | N-ethyidiisopropylamine | 1.7 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | benzylsulfamic acid amide potassium salt | 3.52 g | [K].C(C1=CC=CC=C1)NS(N)(=O)=O
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | DMSO | 20 ml | CS(=O)C | C2H6OS
product | benzylsulfamic acid [6-chloro-2-(2-cyano-pyridin-4-yl)-5-(2-methoxy-phenoxy)-pyrimidin-4-yl]-amide | 4.17 g | ClC1=C(C(=NC(=N1)C1=CC(=NC=C1)C#N)NS(NCC1=CC=CC=C1)(=O)=O)OC1=C(C=CC=C1)OC | C24H19ClN6O4S
